Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with PMHx ___ ___ s/p right acom aneurysm rupture and
clipping with residual right sided blindness, DM2, HTN who
presented to the ED with chest pain in the setting of an 
abnormal
stress test. ETT/MIBI performed on ___ was notable for a small
area of decreased perfusion in the anteroseptal wall of the LV 
on
exercise stress images with relative reperfusion on rest images. 


On ___ she presented to her cardiologist's office to follow up
on her recent stress testing for chest pain.  During the visit
she reported retrosternal chest pressure with associated 
dyspnea.
She noted the chest pain while seating at rest as well as when
she exerts herself.  Her daughter called in to the appointment
and confirmed that this pain has been present when she is not
active as well as she is active for last couple of weeks. EKG in
the office showed no STE or STD when compared to previous.  She
was given 324mg of aspirin and 1 tab of nitroglycerin and was
sent to the ___ ED for further evaluation. Her pain responded
to NTG.  
 
In the ED initial vitals were:  T98.1 HR79 BP117/79 RR18 98%RA
 
EKG: sinus 81 NA NI q wave III, TWF III (qwave since ___

CHA CXR: No acute cardiopulmonary findings. 
 
Labs/studies notable for:  
WBC 10.2 H/H 13.2/39.9 Plt 235
proBNP 28 TNT <0.01 
BMP notable for Cr 0.5 
INR 1.1
 
Patient was ordered for asa & atorvastatin. 
 
Vitals on transfer: T98.0 HR76 BP142/90 RR22 98%RA

On the floor, Ms. ___ is resting comfortably.  At beginning
of interview denied chest pain or pressure, dyspnea, jaw/arm
pain, nausea, diaphoresis or palpitations.  She stated she felt
chest pressure while in doctors office today but it went away
with NTG.  She states she has had chest pressure on and off for
months, can experience it at rest and with activity.  She states
she will feel it when she goes "walking" but cannot tell me how
long she can walk before it occurs.  She cannot clearly tell me
if it resolves when she rests.  Of note, she states she does
experience heart burn and acid reflux often but this chest
"pressure" is new and different.  At the end of the interview,
she reported feeling acute onset chest pressure ___ similar to
prior chest pain.  EKG at time of chest discomfort notable for
possible flutter waves then return to sinus rhythm with q wave
III and possible submm STD I, aVL.  Chest pain resolved after
given NTG on floor.  ___ ___ Temp: 97.8 PO BP: 135/80 R
Sitting HR: 72 RR: 18 O2 sat: 97% O2 delivery: Ra FSBG: 89 EKG
similar post NTG. 

 
Past Medical History:
# HTN/HLD
# DM2 hgbA1C = 6.5 ___ not on any medications as outpt
# atypical CP negative stress test ___
# obesity
# SAH
# Anxiety
# memory d/o
# migraine
# optic neuropathy 

 
Social History:
___
Family History:
Her father died of an MI at age ___. Her mother is still alive 
and has DM. No one in her family has a history of gallstones. 

 
Physical Exam:
ADMISSION PHYSICAL EXAM
========================
VS: 24 HR Data (last updated ___ @ 428) Temp: 97.8 (Tm
97.8), BP: 104/73 (104-135/73-80), HR: 72, RR: 18, O2 sat: 97%,
O2 delivery: Ra  
GENERAL: Well developed, well nourished obese female in NAD.
Oriented x3. Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa.
No xanthelasma.  
NECK: Supple. No JVD. 
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. Regular rate and rhythm. Normal S1, S2. No murmurs, rubs,
or gallops. No thrills or lifts.  
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. 
EXTREMITIES: Warm, well perfused. No peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  

DISCHARGE PHYSCIAL EXAM
========================
GENERAL: Well-appearing, well-nourished obese female sitting at
bedside. NAD.
HEENT: Normocephalic, atraumatic. EOMI. Sclera anicteric. No 
JVD.
CV: RRR, normal S1/S2. No murmurs, rubs, or gallops.
RESP: CTAB, no wheezes, rales, or rhonchi.
GI: Soft, nontender, nondistended. NABS. No rebound or guarding.
MSK: No ___ edema
SKIN: No lesions or rashes noted.
NEURO: Moving all 4 extremities with purpose. Awake, alert, and
answering questions appropriately.

 
Pertinent Results:
ADMISSION LABS
================
___ 07:30PM BLOOD WBC-10.2* RBC-4.36 Hgb-13.2 Hct-39.9 
MCV-92 MCH-30.3 MCHC-33.1 RDW-14.4 RDWSD-48.5* Plt ___
___ 07:30PM BLOOD Neuts-50.7 ___ Monos-6.4 Eos-3.4 
Baso-0.3 Im ___ AbsNeut-5.19 AbsLymp-3.94* AbsMono-0.65 
AbsEos-0.35 AbsBaso-0.03
___ 09:53PM BLOOD ___ PTT-30.1 ___
___ 07:30PM BLOOD Glucose-87 UreaN-10 Creat-0.5 Na-143 
K-4.1 Cl-105 HCO3-26 AnGap-12
___ 07:30PM BLOOD cTropnT-<0.01 proBNP-28
___ 04:56AM BLOOD Calcium-9.3 Phos-3.7 Mg-1.8

PERTINENT INTERVAL LABS
=========================
___ 01:17AM BLOOD cTropnT-<0.01
___ 04:56AM BLOOD CK-MB-1 cTropnT-<0.01
___ 04:56AM BLOOD TSH-2.7

DISCHARGE LABS
================
___ 05:47AM BLOOD WBC-10.8* RBC-4.59 Hgb-13.7 Hct-41.1 
MCV-90 MCH-29.8 MCHC-33.3 RDW-14.3 RDWSD-46.6* Plt ___
___ 05:47AM BLOOD Glucose-116* UreaN-13 Creat-0.6 Na-144 
K-4.5 Cl-106 HCO3-19* AnGap-19*
___ 05:47AM BLOOD Calcium-9.9 Phos-4.3 Mg-2.3

MICROBIOLOGY
==============
None

IMAGING STUDIES
=================
The left atrial volume index is normal. No atrial septal defect 
is seen by 2D or color Doppler. The estimated right atrial 
pressure is ___ mmHg. Left ventricular wall thickness, cavity 
size and regional/global systolic function are normal (LVEF 
>55%). Doppler parameters are most consistent with normal left 
ventricular diastolic function. There is no ventricular septal 
defect. Right ventricular chamber size and free wall motion are 
normal. The diameters of aorta at the sinus, ascending and arch 
levels are normal. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
stenosis or aortic regurgitation. The mitral valve appears 
structurally normal with trivial mitral regurgitation. There is 
no mitral valve prolapse. The estimated pulmonary artery 
systolic pressure is normal. There is no pericardial effusion. 

 IMPRESSION: Normal biventricular chamber size and 
regional/global systolic function. No pathologic valvular flow.  

 
Brief Hospital Course:
TRANSITIONAL ISSUES
====================
[ ] Chest pain - unclear if of cardiac etiology or otherwise. If 
this is deemed to be of cardiac origin, initiation of a 
long-acting nitrate can be considered as blood pressures allow
[ ] Positive MIBI - patient should follow up with a cardiologist 
to decide whether elective cardiac catheterization is necessary 
following a recent MIBI with a small area of decreased perfusion 
that reversed with rest
[ ] Started on Aspirin - discussed w/ ___. Pt okay to be on 
ASA. Felt it has benefit for her primary prophylaxis in CAD. 

___ year old female with DMII, HTN, HLD, history of ICH w/ 
residual R-sided blindness and a recent stress MIBI suggestive 
of a small area of decrease perfusion that reversed with rest 
presented from her PCPs office with chest pain concerning for a 
coronary etiology.

ACTIVE PROBLEMS
================
# Chest Pain
The patient presented with chest pain that she described as 
"pressure" in her neck. Given concern for coronary artery 
disease, troponins were checked (negative x3) and EKGs were 
obtained (no acute ischemic changes). A more robust history was 
elicited, which suggested that she feels this chest pain 
intermittently (no daily but several times per week) and has not 
noted any correlation with rest or exercise. She takes her 
sublingual nitroglycerin when she is feeling pain, which helps 
sometimes but not always. She also recalls some events that were 
relieved with rest and some that lasted for several hours. Based 
on this, it remains unclear if her chest pain is coronary in 
origin. She also had an echocardiogram that was unremarkable. 
Given the negative objective work up and the very questionable 
history of her chest pain, cardiac catheterization was deferred 
at this time. Her metoprolol succinate and lisinopril were 
continued, and she was started on 81mg aspirin daily (after 
consultation with neurosurgery). Consideration was made to 
initiate nitrate therapy, however he blood pressures remained 
too soft. This can be further considered in the outpatient 
setting.

CHRONIC/STABLE PROBLEMS
========================
# DMII - held metformin while inpatient and initiated Humalog 
sliding scale

# HTN - held HCTZ in favor of lisinopril and metoprolol

# HLD - continued atorvastatin

# Anxiety - continued Wellbutrin 100mg BID
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion 100 mg PO BID 
2. Lisinopril 5 mg PO DAILY 
3. Metoprolol Succinate XL 25 mg PO DAILY 
4. Atorvastatin 80 mg PO QPM 
5. Hydrochlorothiazide 25 mg PO DAILY 
6. MetFORMIN XR (Glucophage XR) 1000 mg PO BID 
7. Cetirizine 10 mg PO DAILY 
8. HydrOXYzine 25 mg PO Q8H:PRN itching 
9. Vitamin D 1000 UNIT PO DAILY 
10. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 80 mg PO QPM  
3.  BuPROPion 100 mg PO BID  
4.  Cetirizine 10 mg PO DAILY  
5.  HydrOXYzine 25 mg PO Q8H:PRN itching  
6.  Lisinopril 5 mg PO DAILY  
7.  MetFORMIN XR (Glucophage XR) 1000 mg PO BID 
Do Not Crush  
8.  Metoprolol Succinate XL 25 mg PO DAILY  
9.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain  
10.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
===================
Chest Pain

Secondary Diagnoses
===================
DMII
HTN
HLD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ from ___.

WHY WAS I ADMITTED?
=======================
- You were having chest pain at your doctor's office.

WHAT HAPPENED WHILE I WAS HOSPITALIZED?
=========================================
- We made sure that your heart was not being damaged by poor 
blood flow.
- We adjusted your medications to make them the best combination 
for your heart.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
===============================================
- Take all of your medications as prescribed.
- Follow up with your doctors.
 
Followup Instructions:
___